US06423704B1
Treat a mixture of 5-isothiocyanato-2-methoxy-benzoic acid methyl ester (6.90 g, 30.91 mmol) and formic hydrazide (2.04 g, 34.0 mmol, Aldrich Chemical Company) under an argon atmosphere via syringe with anhydrous tetrahydrofuran (40 mL). After three hours, concentrate in vacuo to remove the solvent, mix the residue with 1 M NaHCO3 solution (total of 300 mL employed) in portions and transfer to a 500 mL round bottom flask. Reflux for 3 days under an argon atmosphere. Filter the hot solution, acidify with concentrated hydrochloric acid (25 mL), chill the mixture in an ice bath and collect the precipitate by vacuum filtration. Wash the filter cake with dichloromethane and dry in vacuo to afford 7.12 g of 2-methoxy-5-(5-thioxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid. Combine the filtrates and concentrate in vacuo to afford another crop of 2-methoxy-5-(5-thioxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid (1.24 g).

reactant | 5-isothiocyanato-2-methoxy-benzoic acid methyl ester | 30.91 mmol, 6.90 g | COC(C1=C(C=CC(=C1)N=C=S)OC)=O | C10H9NO3S
reactant | formic hydrazide | 34.0 mmol, 2.04 g | C(=O)NN | CH4N2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-methoxy-5-(5-thioxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid | 7.12 g | COC1=C(C(=O)O)C=C(C=C1)N1C=NNC1=S | C10H9N3O3S
